US07371748B2
Piperidine-1-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine, phenyl chloroformate and piperidine, the title compound was prepared as light yellow powder. MS: m/e=392(M+H+).

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | piperidine | N1CCCCC1 | C5H11N
product | Piperidine-1-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCCCC2)OC | C19H25N3O4S
